US06858638B2
5-Amino-6-methyl-3-phenyl-1H-indazole can be obtained in the following way: 0.5 ml of water and 0.18 ml of an aqueous 12N hydrochloric acid solution are added to a solution of 0.53 g of 6-methyl-5-nitro-3-phenyl-1H-indazole in 30 ml of ethanol. The reaction mixture is then heated at the reflux of the solvent and 0.36 g of powdered iron are added in 2 steps. The reaction mixture is then stirred at the reflux of the solvent for 4.5 hours and is then cooled to a temperature in the region of 20° C. and treated with 50 ml of ice-cold water. The mixture is then basified with an aqueous 32% ammonium hydroxide solution, to a pH in the region of 11. After settling out, the aqueous phase is extracted with one times 50 ml then 2 times 25 ml of ethyl acetate. The organic extracts are pooled, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue thus obtained is purified by chromatography on a silica column (particle size 63-200 μm), eluting with a cyclohexane/ethyl acetate (75/25 by volume) mixture. The fractions containing the expected product are pooled and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 0.4 g of 5-amino-6-methyl-3-phenyl-1H-indazole is thus obtained in the form of a beige crystalline solid melting at 133° C.

reactant | water | 0.5 ml | O | H2O
reactant | hydrochloric acid | 12N | Cl | ClH
reactant | 6-methyl-5-nitro-3-phenyl-1H-indazole | 0.53 g | CC1=C(C=C2C(=NNC2=C1)C1=CC=CC=C1)[N+](=O)[O-] | C14H11N3O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | iron | 0.36 g | [Fe] | Fe
product | 5-amino-6-methyl-3-phenyl-1H-indazole | 0.4 g | NC=1C=C2C(=NNC2=CC1C)C1=CC=CC=C1 | C14H13N3
